US05401772
3,5-Dimethyl-4-(3'-isopropylphenoxy)-nitrobenzene (5.21 g) and 521 mg of 10% platinum on carbon in 150 ml ethanol are reduced under hydrogen on a Pan- shaker. The solution is filtered through Celite to remove catalyst and the filtrate is stripped to give 3,5-dimethyl-4-(3'-isopropylphenoxy)-aniline which is then fused with 50 g of dimethyl oxalate at 120° for four hours. The resulting mixture is concentrated under high vacuum and the residue chromatographed on silica gel with 9:1 toluene:ethyl acetate as eluent to yield methyl N-[3,5-dimethyl-4-(3'-isopropylphenoxy)-phenyl]oxamate; NMR (CDCl3): δ1.2 (6H, d), 2.1 (6H, s), 2.8 (1H, m), 4.0 (3H, s), 6.5 (1H, d of d), 6.7 (1H, t), 6.9 (1H, d of d), 7.2 (1H, t), 7.4 (2H, s), 8.8 (1b, br s).

reactant | 3,5-Dimethyl-4-(3'-isopropylphenoxy)-nitrobenzene | 5.21 g | CC=1C=C(C=C(C1OC1=CC(=CC=C1)C(C)C)C)[N+](=O)[O-] | C17H19NO3
catalyst | platinum on carbon | 521 mg | [Pt] | Pt
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 3,5-dimethyl-4-(3'-isopropylphenoxy)-aniline | CC=1C=C(N)C=C(C1OC1=CC(=CC=C1)C(C)C)C | C17H21NO
